US07420066B2
6-[2-(2,4-Dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-pyridine-2-carboxylic acid amide was prepared via a Suzuki coupling of ((2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone and 6-Bromo-pyridine-2-carboxylic acid amide as described in method 6 step 2. 1H-NMR (CD3OD) δ 8.42 (s, 1H), 8.23-8.17 (m, 2H), 8.09-8.02 (m, 2H), 7.92 (d, J=8 Hz 1H), 7.64 (d, J=2 Hz, 1H), 7.58-7.51 (m, 2H), 2.64 (s, 3H).

reactant | (2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone | ClC1=C(C=CC(=C1)Cl)C(=O)C=1OC2=C(C1C)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C22H21BCl2O4
reactant | 6-Bromo-pyridine-2-carboxylic acid amide | BrC1=CC=CC(=N1)C(=O)N | C6H5BrN2O
product | 6-[2-(2,4-Dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-pyridine-2-carboxylic acid amide | ClC1=C(C(=O)C=2OC3=C(C2C)C=CC(=C3)C3=CC=CC(=N3)C(=O)N)C=CC(=C1)Cl | C22H14Cl2N2O3
